US09034900B2
3-(difluoromethoxy)-5-[2-(2,4-difluorophenoxy)-5-(ethylsulfonylmethyl)phenyl]-1-methylpyridin-2-one
A mixture of 5-bromo-3-(difluoromethoxy)-1-methylpyridin-2-one (50 mg, 0.20 mmol), 2-[2-(2,4-difluorophenoxy)-5-(ethylsulfonylmethyl)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (79 mg, 0.18 mmol), Pd(dppf)Cl2 (11 mg) and K3PO4 (76 mg, 0.36 mmol) in dioxane (5 mL) and water (5 drops) was purged with nitrogen, capped, and heated to 70° C. for 8 h. After the mixture was filtered, the filtrate was concentrated in vacuo and purified by prep-HPLC to afford the title compound (21 mg, 22%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 7.62 (d, J=2.0 Hz, 1H) 7.54 (d, J=2.0 Hz, 1H) 7.40 (d, J=2.0 Hz, 1H) 7.29 (d, J=2.0 Hz, 1H) 7.09-6.96 (m, 3H) 6.93-6.88 (m, 1H) 6.78 (m, 1H) 4.21 (s, 2H) 3.70 (s, 3H) 2.97 (q, J=7.6 Hz, 2H) 1.43 (t, J=7.6 Hz, 3H). LCMS (M+H)+=486.

reactant | 5-bromo-3-(difluoromethoxy)-1-methylpyridin-2-one | 0.20 mmol, 50 mg | BrC=1C=C(C(N(C1)C)=O)OC(F)F | C7H6BrF2NO2
reactant | 2-[2-(2,4-difluorophenoxy)-5-(ethylsulfonylmethyl)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.18 mmol, 79 mg | FC1=C(OC2=C(C=C(C=C2)CS(=O)(=O)CC)B2OC(C(O2)(C)C)(C)C)C=CC(=C1)F | C21H25BF2O5S
reactant | K3PO4 | 0.36 mmol, 76 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | water | 5 drops | O | H2O
catalyst | Pd(dppf)Cl2 | 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(difluoromethoxy)-5-[2-(2,4-difluorophenoxy)-5-(ethylsulfonylmethyl)phenyl]-1-methylpyridin-2-one | 21 mg, 22% | FC(OC=1C(N(C=C(C1)C1=C(C=CC(=C1)CS(=O)(=O)CC)OC1=C(C=C(C=C1)F)F)C)=O)F | C22H19F4NO5S
